US04956387
14.7 g (0.10 mole) of isatin (dissolved in 100 ml of N,N-dimethylformamide) are added to 2.6 g (0.11 mole) of sodium hydride in 100 ml of N,N-dimethylformamide, while stirring. After the mixture has been stirred for one hour at room temperature, 14.1 g (0.10 mole) of benzoyl chloride are added dropwise at 0° C. Stirring is then continued for 10 minutes at 0° C. and the mixture is poured onto ice. The precipitate which separates out is filtered off under suction and dried to give 20 g (80%) of N-benzoylisatin as yellow crystals.

reactant | isatin | 0.10 mole, 100 ml, 14.7 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.11 mole, 2.6 g | [H-].[Na+]
reactant | benzoyl chloride | 0.10 mole, 14.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-benzoylisatin | 20 g, 80% | C(C1=CC=CC=C1)(=O)N1C(=O)C(=O)C2=CC=CC=C12 | C15H9NO3
